* ============================================================
* Generic Single-Ended OpAmp CMRR Testbench
*
* Standard DUT interface:
*
* .subckt DUT VINP VINN VOUT VDD VSS IBIAS
*
* Metrics:
*   Differential-Mode Gain  ADM
*   Common-Mode Gain        ACM
*   Common-Mode Rejection Ratio CMRR
*
* Definition:
*
*   VDM  = VINP - VINN
*
*   VCM  = (VINP + VINN) / 2
*
*   ADM  = VOUT_DM / VDM
*
*   ACM  = VOUT_CM / VCM
*
*   CMRR = |ADM / ACM|
*
* ============================================================


* ============================================================
* PDK / DUT
* ============================================================

.lib "{{PDK_PATH}}" {{CORNER}}

.include "{{DUT_PATH}}"


* ============================================================
* Temperature
* ============================================================

.temp {{TEMP}}


* ============================================================
* Power Supply
* ============================================================

VDD_SRC VDD 0 DC {{VDD}}

VSS_SRC VSS 0 DC {{VSS}}


* ============================================================
* COMMON-MODE GAIN TEST
*
* Both inputs:
*
*   DC = VCM
*   AC = +1 V
*
* Therefore:
*
*   VDM = 0
*   VCM(ac) = 1 V
*
* LFB_CM:
*
*   DC -> short
*   AC -> approximately open
*
* This maintains a valid DC operating point while
* allowing open-loop common-mode AC measurement.
* ============================================================


* AC master source

VAC_CM CM_AC 0 DC 0 AC 1


* DC common-mode references

VCM_CM_P CM_DC_P 0 DC {{VCM}}

VCM_CM_N CM_DC_N 0 DC {{VCM}}


* VINP_CM = VCM + 1 * VAC_CM

ECM_P INP_CM CM_DC_P CM_AC 0 1


* VINN_CM = VCM + 1 * VAC_CM

ECM_N INN_CM CM_DC_N CM_AC 0 1


* Independent bias current for CM DUT

IBIAS_CM VDD IBIAS_CM_NODE DC {{IBIAS}}


* DUT

XDUT_CM
+ INP_CM
+ INN_CM
+ OUT_CM
+ VDD
+ VSS
+ IBIAS_CM_NODE
+ DUT


* DC feedback / AC isolation

LFB_CM OUT_CM INN_CM 1T


* Output load

CLOAD_CM OUT_CM VSS {{CL}}



* ============================================================
* DIFFERENTIAL-MODE GAIN TEST
*
* Master AC source = 1 V
*
* VINP:
*
*   DC = VCM
*   AC = +0.5 V
*
* VINN:
*
*   DC = VCM
*   AC = -0.5 V
*
* Therefore:
*
*   VDM(ac) = 1 V
*   VCM(ac) = 0 V
*
* ============================================================


* AC master source

VAC_DM DM_AC 0 DC 0 AC 1


* DC common-mode references

VCM_DM_P DM_DC_P 0 DC {{VCM}}

VCM_DM_N DM_DC_N 0 DC {{VCM}}


* VINP_DM = VCM + 0.5 * VAC_DM

EDM_P INP_DM DM_DC_P DM_AC 0 0.5


* VINN_DM = VCM - 0.5 * VAC_DM

EDM_N INN_DM DM_DC_N DM_AC 0 -0.5


* Independent bias current for DM DUT

IBIAS_DM VDD IBIAS_DM_NODE DC {{IBIAS}}


* DUT

XDUT_DM
+ INP_DM
+ INN_DM
+ OUT_DM
+ VDD
+ VSS
+ IBIAS_DM_NODE
+ DUT


* DC feedback / AC isolation

LFB_DM OUT_DM INN_DM 1T


* Output load

CLOAD_DM OUT_DM VSS {{CL}}



* ============================================================
* AC Analysis
* ============================================================

.ac dec {{AC_POINTS_PER_DEC}} {{AC_START}} {{AC_STOP}}



* ============================================================
* Control
* ============================================================

.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15



* ============================================================
* Differential-Mode Gain
*
* VDM = VINP - VINN
* ============================================================

let vdm = v(INP_DM) - v(INN_DM)

let adm = v(OUT_DM) / vdm

let adm_db = db(adm)



* ============================================================
* Common-Mode Gain
*
* VCM = (VINP + VINN) / 2
* ============================================================

let vcm_ac = (v(INP_CM) + v(INN_CM)) / 2

let acm = v(OUT_CM) / vcm_ac

let acm_db = db(acm)



* ============================================================
* CMRR
*
* CMRR = ADM / ACM
* ============================================================

let cmrr = adm / acm

let cmrr_db = db(cmrr)



* ============================================================
* Low-Frequency Reference Values
* ============================================================

meas ac adm_ref_db FIND adm_db AT={{CMRR_MEASURE_FREQ}}

meas ac acm_ref_db FIND acm_db AT={{CMRR_MEASURE_FREQ}}

meas ac cmrr_ref_db FIND cmrr_db AT={{CMRR_MEASURE_FREQ}}



* ============================================================
* Output
* ============================================================

echo ========================================
echo COMMON-MODE REJECTION RATIO
echo ========================================

print adm_ref_db
print acm_ref_db
print cmrr_ref_db



* ============================================================
* Save Full Frequency Response
* ============================================================

wrdata "{{OUTPUT_PATH}}" adm_db acm_db cmrr_db


quit

.endc


.end